* source AMP-MOSFET-80W
V_V2         N15896 0 50Vdc
V_V1         0 N15974 +50Vdc
R_R6         N17790 N18297  33k TC=0,0 
R_R7         N18307 N18297  1k TC=0,0 
C_C3         0 N18307  47u  TC=0,0 
R_R8         N16418 N18639  180 TC=0,0 
R_R9         0 N16404  47k TC=0,0 
D_D1         N15896 N18669 D1N4002 
R_R10         N18669 N18639  100 TC=0,0 
X_R12         N17905 N17905 N17916 POT PARAMS: SET=0 VALUE=200R
C_C4         N17905 N17916  100n  TC=0,0 
X_U3         N15896 N16843 N17790 ECX10N20
R_R16         N16843 N17916  220R TC=0,0 
X_U4         N15974 N18950 N17790 ECX10P20
R_R21         N18950 N17905  220R TC=0,0 
D_D2         N17790 N17890 BZX84C12V/PLP 
D_D3         N17916 N17890 D1N914 
D_D5         N17905 N17901 BZX84C12V/PLP 
D_D4         N17790 N17901 D1N914 
R_R23         N18177 N181110  220 TC=0,0 
R_R24         N18177 N181450  220 TC=0,0 
C_C10         N18567 N17790  22n  TC=0,0 
R_R25         0 N18567  6.8R TC=0,0 
C_C11         0 N18639  100u  TC=0,0 
D_D6         N18886 N15974 D1N4002 
R_R26         N18886 N18177  100 TC=0,0 
C_C12         0 N18177  100u  TC=0,0 
R_R27         N19008 N18639  39R TC=0,0 
R_R28         0 N17790  4R TC=0,0 
R_R5         N424431 N42493  100 TC=0,0 
R_R29         N424831 N42493  100 TC=0,0 
V_V3         N60966 0  AC 1V
+SIN 0V 0.2V 1kHz 0 0 0
C_C1         N60966 N60976  3.3u  TC=0,0 
R_R4         N60990 N60976  1k TC=0,0 
R_R3         0 N60976  33k TC=0,0 
Q_Q28         N17916 N63089 N19008 Q2N5401C 
Q_Q27         N17905 N63600 N63556 Q2N5551C 
R_R30         N620161 N18639  220 TC=0,0 
R_R31         N620381 N18639  220 TC=0,0 
R_R18         N18177 N62275  180 TC=0,0 
R_R19         N62235 0  47k TC=0,0 
R_R33         N62195 N62610  100 TC=0,0 
R_R32         N62195 N62614  100 TC=0,0 
R_R34         N63089 N18639  2.2k TC=0,0 
R_R35         N18177 N63600  2.2k TC=0,0 
R_R36         N18177 N63556  39R TC=0,0 
C_C26         N63079 N17916  18p  TC=0,0 
C_C27         N63316 N17905  18p  TC=0,0 
Q_Q33         N62195 N62235 N62275 BC846B/ZTX 
Q_Q34         N62235 N62275 N18177 BC846B/ZTX 
Q_Q37         0 N63316 N63600 BC846B/ZTX 
Q_Q38         N16404 N16418 N18639 QBC856B/PLP 
Q_Q39         N42493 N16404 N16418 QBC856B/PLP 
Q_Q40         0 N63079 N63089 QBC856B/PLP 
C_C28         0 N60990  470p  TC=0,0 
X_U5         N62614 N60990 N63079 BCM846BS
X_U6         N424831 N18297 N85660 BCM856BS
X_U7         N62610 N18297 N85148 BCM846BS
X_U8         N424431 N60990 N63316 BCM856BS
X_U9         N620381 N85152 N85148 BCM856BS
X_U10         N620161 N85152 N63079 BCM856BS
Q_Q41         0 N85148 N85152 QBC856B/PLP 
R_R37         N85152 N18639  1k TC=0,0 
R_R38         N85148 N63079  4.7k TC=0,0 
X_U11         N181450 N85614 N85660 BCM846BS
X_U12         N181110 N85614 N63316 BCM846BS
Q_Q42         0 N85660 N85614 BC846B/ZTX 
R_R39         N18177 N85614  1k TC=0,0 
R_R40         N85660 N63316  4.7k TC=0,0 
.PARAM  cg=18p
